US07691882B2
2-Amino-6-methyl-pyridine-3-carbaldehyde
To a methylene chloride (8 mL) solution of (2-amino-6-methyl-pyridin-3-yl)-methanol (379 mg, 2.74 mmol) described in Manufacturing Example 170-1-3 was added manganese (IV) dioxide (1.19 mg, 13.7 mmol) at room temperature, which was stirred for 11 hours at room temperature. The reaction mixture was filtered through a Celite pad, and the filtrate was concentrated under a reduced pressure. The residue was purified by silica gel column chromatography (heptane:ethyl acetate=1:2) to obtain the title compound (328 mg, 88%).

reactant | (2-amino-6-methyl-pyridin-3-yl)-methanol | 2.74 mmol, 379 mg | NC1=NC(=CC=C1CO)C | C7H10N2O
catalyst | manganese (IV) dioxide | 13.7 mmol, 1.19 mg | [O-2].[O-2].[Mn+4]
solvent | methylene chloride | 8 mL | C(Cl)Cl | CH2Cl2
product | 2-Amino-6-methyl-pyridine-3-carbaldehyde | 328 mg, 88% | NC1=NC(=CC=C1C=O)C | C7H8N2O
